US03950376
4Chloro-3-mercapto-5-sulfamylbenzoic acid (0.27 g) is dissolved in water (25 ml) by addition of 1 N sodium hydroxide until pH 8. Benzyl bromide (0.15 ml) is added and the reaction mixture stirred for 18 hours. Addition of 4 N hydrochloric acid until pH 1.5 precipitates a crude material which is collected by filtration, washed with water, and recrystallized from aqueous ethanol to yield 3-benzylthio-4-chloro-5-sulfamylbenzoic acid with a melting point of 241° - 242.5° C.

reactant | 4Chloro-3-mercapto-5-sulfamylbenzoic acid | 0.27 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)S | C7H6ClNO4S2
reactant | Benzyl bromide | 0.15 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
product | 3-benzylthio-4-chloro-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1Cl)S(N)(=O)=O | C14H12ClNO4S2
